US05376451
2-(benzylthio)aniline
2-(amino)thiophenol and 2-(methylthio)aniline were purchased from Aldrich Chemical Company.

reactant | 2-(amino)thiophenol | NC1=C(C=CC=C1)S | C6H7NS
reactant | 2-(methylthio)aniline | CSC1=C(N)C=CC=C1 | C7H9NS
product | 2-(benzylthio)aniline | C(C1=CC=CC=C1)SC1=C(N)C=CC=C1 | C13H13NS
